### PR TITLE
sum_fine

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

To deal with sums of ereals that are actually reals.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/constructive_ereal.v [hunk 1]
```diff
@@ -785,6 +785,15 @@ Proof. by move: x y => [x| |] [y | |]. Qed.
 Lemma fineK x : x \is a fin_num -> (fine x)%:E = x.
 Proof. by case: x. Qed.
 
+Lemma sum_fine (I : eqType) s (P : pred I) (F : I -> \bar R) :
+  (forall i, (i \in s) || P i -> F i \is a fin_num) ->
```
Comment (zstone1) [inline theories/constructive_ereal.v:789]: The `i \in s` can be safely removed with no change to the proof. In fact, it should be possible to assume `(forall i, (i \in s) && P i -> F i \is a fin_num)` instead, although that will require some change.

Comment (zstone1) [reply theories/constructive_ereal.v:789]: Oh wow, I have no idea how to get an `i \in s` in scope since `eq_bigr` doesn't do it naturally. I'm happy to just leave it as
```suggestion
  (forall i, P i -> F i \is a fin_num) ->
```

File: theories/constructive_ereal.v [hunk 2]
```diff
@@ -785,6 +785,16 @@ Proof. by move: x y => [x| |] [y | |]. Qed.
 Lemma fineK x : x \is a fin_num -> (fine x)%:E = x.
 Proof. by case: x. Qed.
 
+Lemma sum_fine (I : eqType) s (P : pred I) (F : I -> \bar R) :
+  (forall i, i \in s -> P i -> F i \is a fin_num) ->
+  (\sum_(i <- s | P i) fine (F i) = fine (\sum_(i <- s | P i) F i))%R.
```
Comment (CohenCyril) [inline theories/constructive_ereal.v:790]:
```suggestion
Lemma sum_fine (I : Type) s (P : pred I) (F : I -> \bar R) :
  (forall i, P i -> F i \is a fin_num) ->
  (\sum_(i <- s | P i) fine (F i) = fine (\sum_(i <- s | P i) F i))%R.
```
and use `big_seq` or `big_seq_cond` to bridge the gap.

Comment (affeldt-aist) [reply theories/constructive_ereal.v]: I didn't see how to use big_seq{,cond} with Type but that's provable anyway.

Comment (CohenCyril) [reply theories/constructive_ereal.v]: What I meant was that if someone needs to rely on `forall i, i \in s -> P i -> F i \is a fin_num` rather than `forall i, P i -> F i \is a fin_num` as a precondition, they can combine the new `sum_fine` together with `big_seq{,cond}`

Comment (affeldt-aist) [reply theories/constructive_ereal.v]: Ah, ok, this I got.

**Review by CohenCyril — APPROVED** [review]
